US06124285
α-Aminooxy-γ-butyrolactone hydrochloride
α-Phthalimidooxy-γ-butyrolactone (1.0 g, 4 mmol) was added to hydrochloric acid (1M, 10 mL) at reflux. After 5 min. at reflux for 5 min and the reaction was cooled down on an ice bath and filtered. The filtrate was evaporated to dryness. Toluene was added and residual water removed azeotropic distillation. 0.75 g of the desired material was obtained.

reactant | α-Phthalimidooxy-γ-butyrolactone | 4 mmol, 1.0 g | C1(C=2C(C(N1OC1C(=O)OCC1)=O)=CC=CC2)=O | C12H9NO5
reactant | hydrochloric acid | 1M, 10 mL | Cl | ClH
product | α-Aminooxy-γ-butyrolactone hydrochloride | 0.75 g | Cl.NOC1C(=O)OCC1 | InChI=1S/C4H7NO3.ClH/c5-8-3-1-2-7-4(3)6;/h3H,1-2,5H2;1H
